US07291631B2
(3,5-Dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine (0.16 g, 0.45 mmol) was dissolved in MeOH (4 mL) and cooled to 0° C. NaOAc (112 mg, 1.4 mmol) and CNBr (68 mg, 0.64 mmol) were added and the solution was slowly warmed to room temperature and stirred for 6 hours. H2O (15 mL) was added and the solution was extracted with CH2Cl2 (3×30 mL). The combined organics were dried (Na2SO4) and concentrated under reduced pressure to afford 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carbonitrile (134 mg, 79%).

reactant | (3,5-Dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine | 0.45 mmol, 0.16 g | CC=1C(=NC=C(C1)C)CN(C1CCNCC1)CC1=NC=CC=C1C(C)C | C22H32N4
reactant | NaOAc | 1.4 mmol, 112 mg | CC(=O)[O-].[Na+]
reactant | CNBr | 0.64 mmol, 68 mg | N#CBr | CBrN
reactant | H2O | 15 mL | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
product | 4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-isopropyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carbonitrile | 134 mg, 79% | CC=1C(=NC=C(C1)C)CN(C1CCN(CC1)C#N)CC1=NC=CC=C1C(C)C | C23H31N5
